US08420670B2
N-{2-[4-(3,4-Dichloro-benzylamino)-2-methylquinolin-8-yloxy]-ethyl}-C-phenyl-methanesulfonamide
Preparation was made using a similar procedure as described in example 21. Starting materials were [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride and phenylmethanesulfonyl chloride.

reactant | [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride | Cl.Cl.NCCOC=1C=CC=C2C(=CC(=NC12)C)NCC1=CC(=C(C=C1)Cl)Cl
reactant | phenylmethanesulfonyl chloride | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
product | N-{2-[4-(3,4-Dichloro-benzylamino)-2-methylquinolin-8-yloxy]-ethyl}-C-phenyl-methanesulfonamide | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OCCNS(=O)(=O)CC2=CC=CC=C2)C)C=CC1Cl | C26H25Cl2N3O3S
